US09328124B2
2-(Diallylamino)-1-(3-pyridyl)ethanone oxime
2-(Diallylamino)-1-(3-pyridyl)ethanone (4.75 g, 21.96 mmol) is dissolved in ethanol (47 mL) under a nitrogen atmosphere. Hydroxylamine hydrochloride (3.55 g, 50.51 mmol) and pyridine (2.5 mL, 30.75 mmol) are then added. The resulting solution is heated at 70° C. under nitrogen for 140 minutes. The reaction is then cooled to room temperature and the solvent is partially evaporated under reduced pressure. The resulting residue is partitioned between 1 M aqueous sodium hydroxide (50 ml) and dichloromethane (250 mL). The phases are separated and the aqueous phase is re-extracted with ethyl acetate (250 mL). The organic layers are combined and the solvents are evaporated. The crude material is purified by silica gel column chromatography using a 0-10% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (3.95 g, 78%) as a mixture of E/Z isomers. ES/MS (m/e): 232 (M+1).

reactant | 2-(Diallylamino)-1-(3-pyridyl)ethanone | 21.96 mmol, 4.75 g | C(C=C)N(CC(=O)C=1C=NC=CC1)CC=C | C13H16N2O
reactant | Hydroxylamine hydrochloride | 50.51 mmol, 3.55 g | Cl.NO
reactant | pyridine | 30.75 mmol, 2.5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 47 mL | C(C)O | C2H6O
product | 2-(Diallylamino)-1-(3-pyridyl)ethanone oxime | 3.95 g, 78% | C(C=C)N(CC(=NO)C=1C=NC=CC1)CC=C | C13H17N3O
